US07319099B2
(b) 1-Cyclopropanesulfonyl-2,3,4-trifluoro-benzene
To 5.9 mmol 1-(3-chloro-propane-1-sulfonyl)-2,3,4-trifluoro-benzene in 200 ml THF at −78° C. was added dropwise over 30 min 7.0 mmol of a 0.9 M solution of potassium bis(trimethylsilyl)amide in THF. The reaction mixture was then allowed to warm to RT, and stirring continued for a further 30 min at RT. The mixture was then quenched by addition of 1 M aq HCl and extracted three times with ethyl acetate. The combined organic phases were dried with Na2SO4, and concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane 1:4) to afford the title compound. MS (m/e): 237.2 (M+H+, 100%)

reactant | 1-(3-chloro-propane-1-sulfonyl)-2,3,4-trifluoro-benzene | 5.9 mmol | ClCCCS(=O)(=O)C1=C(C(=C(C=C1)F)F)F | C9H8ClF3O2S
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-Cyclopropanesulfonyl-2,3,4-trifluoro-benzene | C1(CC1)S(=O)(=O)C1=C(C(=C(C=C1)F)F)F | C9H7F3O2S
